US04990508
18 ml of trifluoroacetic acid was added to 9.3 g of ethyl 4-(2,2-di-tert-butoxycarbonylcyclopropyl)- 2,3,5-trifluorobenzoate. The resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure. The residue obtained was directly heated with a burner for about 20 seconds to complete decarboxylation. To the reaction mixture were added 100 ml of diethyl ether and 200 ml of water in this order. The resulting mixture was adjusted to pH 9.5 with a 10% aqueous sodium carbonate solution. The aqueous layer was separated and 100 ml of diethyl ether was added thereto. The resulting mixture was adjusted to pH 1.5 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 3.30 g (yield: 54.7%) of ethyl 4-(2-carboxycyclopropyl)-2,3,5-trifluorobenzoate.

reactant | trifluoroacetic acid | 18 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 4-(2,2-di-tert-butoxycarbonylcyclopropyl)- 2,3,5-trifluorobenzoate | 9.3 g | C(C)(C)(C)OC(=O)C1(C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F)C(=O)OC(C)(C)C | C22H27F3O6
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 200 ml | O | H2O
product | ethyl 4-(2-carboxycyclopropyl)-2,3,5-trifluorobenzoate | 3.30 g, yield: 54.7% | C(=O)(O)C1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C13H11F3O4
